* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Conceptual.asc
Lf N006 Vo 33µ
Cf Vo 0 330n
RL Vo 0 8
VCC VCC 0 30
VSS 0 VEE 30
V1 5V 0 5
V§SENOIDAL Vsin 0 SINE(0 1.1 {freq})
V5 15V 0 15
V6 0 -15V 15
S1 N006 VCC N001 0 SW
S2 N006 VEE 5V N001 SW
V§TRIANGULAR Vtriang 0 PULSE(-1.5 1.5 0 2.5u 2.5u 0 5u)
R1 Vo Vf 19k
R2 Vf 0 1k
R5 N005 Vsin 1k
R6 0 N005 {R}
R7 Vf N002 1k
R8 error N002 {R}
XU3 N005 N002 15V -15V error AD817
C1 Vo Vf 82p
R9 N003 error 19k
C3 N003 error 52p
R10 N003 0 1k
XU1 N003 Vtriang 15V -15V N004 0 LM311
R3 5V N004 1k
A1 N004 0 0 0 0 0 N001 0 OR td=80n Vhigh=5 Vlow=0
.tran 0 {time} 0 uic
.include UCC20520.301
* Fuentes
* Bibliotecas
* Salida
* Filtro
.include PHB27NQ10T.lib
.include BS170.301
.include LM311.301
* Directivas SPICE
* Entrada
* Etapa de salida
.options numdgt = 15
* Doble precision
.options plotwinsize = 0
* Deshabilitar la compresion
.four {freq} {Narm} -1 V(vo)
.model SW SW(Ron=.01 Roff=10Meg Vt=1)
.include AD817.301
.param freq=20k
.param time=10/{freq}
.param R=470k
.param Narm table(freq, 1k, 9, 10k, 6, 20k, 3)
.backanno
.end
