* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Conceptual.asc
Lf N001 Vo 33µ
Cf Vo 0 330n
RL Vo 0 8
VCC VCC 0 30
VSS 0 VEE 30
V1 5V 0 5
V§SENOIDAL Vsin 0 SINE(0 1.1 {freq})
V5 15V 0 15
V6 0 -15V 15
S1 N001 VCC N002 0 SW
S2 N001 VEE 5V N002 SW
V§TRIANGULAR Vtriang 0 PULSE(-1.5 1.5 0 2.5u 2.5u 0 5u)
R5 Vf Vsin 1k
XU3 0 Vf 15V -15V error AD817
XU1 error Vtriang 15V -15V N003 0 LM311
R3 5V N003 1k
A1 N003 0 0 0 0 0 N002 0 OR td=80n Vhigh=5 Vlow=0
C2 error Vf 530p
R1 N001 Vf 100k
.tran 0 {time} 0 uic
.include UCC20520.301
* Fuentes
* Bibliotecas
* Salida
* Filtro
.include PHB27NQ10T.lib
.include BS170.301
.include LM311.301
* Directivas SPICE
* Entrada
* Etapa de salida
.options numdgt = 15
* Doble precision
.options plotwinsize = 0
* Deshabilitar la compresion
.four {freq} {Narm} -1 V(vo)
.model SW SW(Ron=.01 Roff=10Meg Vt=1)
.include AD817.301
.param freq=20k
.param time=10/{freq}
.param R=470k
.param Narm table(freq, 1k, 9, 10k, 6, 20k, 3)
.backanno
.end
